US05780472
1-[(2-methoxypyridin-3-yl)aminocarbonyl]-4-(3-chlorophenyl)piperazine
Phenyl-N-(2-methoxypyridin-3-yl)carbamate and 1-(3-chlorophenyl)piperazine were reacted by the same way with the example 1 to obtain the titled compound.

reactant | Phenyl-N-(2-methoxypyridin-3-yl)carbamate | C1(=CC=CC=C1)OC(NC=1C(=NC=CC1)OC)=O | C13H12N2O3
reactant | 1-(3-chlorophenyl)piperazine | ClC=1C=C(C=CC1)N1CCNCC1 | C10H13ClN2
product | 1-[(2-methoxypyridin-3-yl)aminocarbonyl]-4-(3-chlorophenyl)piperazine | yield: 72% | COC1=NC=CC=C1NC(=O)N1CCN(CC1)C1=CC(=CC=C1)Cl | C17H19ClN4O2
